US08791107B2
1-(4-(5-(6-methoxy-2,3-dihydro-1H-inden-1-yl)-6-oxo-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridin-2-yl)phenyl)-3-methylurea
The title compound was prepared in a manner similar to EXAMPLE 84 using 2-chloro-5-(6-methoxy-2,3-dihydro-1H-inden-1-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one (PREPARATION x43, 70 mg, 0.181 mmol), 1-methyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea (100 mg, 0.362 mmol) and PdCl2(dppf) (6.62 mg, 9.05 μmol) in dioxane (3 mL) and aqueous saturated NaHCO3 (0.6 mL). 1H NMR (400 MHz, DMSO-d6) δ 2.23-2.45 (m, 3H), 2.60-2.66 (m, 3H), 2.87-3.17 (m, 4H), 3.55-3.72 (m, 4H), 3.95-4.10 (m, 1H), 4.16-4.34 (m, 1H), 4.38-4.64 (m, 2H), 6.04-6.15 (m, 1H), 6.49-6.91 (m, 3H), 7.23-7.34 (m, 1H), 7.41-7.50 (m, 2H), 8.04-8.14 (m, 2H), 8.72-8.81 (m, 1H). ESI-MS m/z [M+H]+ calc'd for C27H28N6O4, 501.22. found 501.5.

reactant | 2-chloro-5-(6-methoxy-2,3-dihydro-1H-inden-1-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one | 0.181 mmol, 70 mg | ClC1=NC=2N3C(C(N(C2C=N1)C1CCC2=CC=C(C=C12)OC)=O)COCC3 | C19H19ClN4O3
reactant | 1-methyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea | 0.362 mmol, 100 mg | CNC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C14H21BN2O3
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 0.6 mL | C(=O)(O)[O-].[Na+]
catalyst | PdCl2(dppf) | 9.05 μmol, 6.62 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(4-(5-(6-methoxy-2,3-dihydro-1H-inden-1-yl)-6-oxo-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridin-2-yl)phenyl)-3-methylurea | COC1=CC=C2CCC(C2=C1)N1C=2C=NC(=NC2N2C(C1=O)COCC2)C2=CC=C(C=C2)NC(=O)NC | C27H28N6O4
